US08304419B2
To a solution of 4-chloro-N-({4-chloro-3-[(5-cyano-4-fluoro-2-nitrophenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (78.0 mg, 0.085 mmol) in DCM (7 ml) was added TFA (3.0 mL) and the reaction mixture was stirred at RT for 2 hours. The solvent was removed and the crude material was purified via reverse phase HPLC to give 4-chloro-N-({4-chloro-3-[(5-cyano-4-fluoro-2-nitrophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide (39 mg, 0.083 mmol, 98% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.14 (d, 1H), 7.75 (s, 1H), 7.27-7.50 (m, 3H), 4.64 (s, 2H). LC-MS (ES+) m/z 468.07, [M+H].

reactant | 4-chloro-N-({4-chloro-3-[(5-cyano-4-fluoro-2-nitrophenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.085 mmol, 78.0 mg | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=C(C=C(C(=C1)C#N)F)[N+](=O)[O-])F)COCC[Si](C)(C)C | C24H23Cl2F2N5O5Si
reactant | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-({4-chloro-3-[(5-cyano-4-fluoro-2-nitrophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.083 mmol, 39 mg, 98% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=C(C=C(C(=C1)C#N)F)[N+](=O)[O-])F | C18H9Cl2F2N5O4
